US04663325
2,3,4-Trimethoxybenzaldehyde (42.1 g; 215 millimoles) and 61.9 g (215 millimoles) of bis(4-fluorophenyl)methylpiperazine were melted in an oil bath at 100° C., and 10 ml (265 millimoles) of formic acid was added dropwise. The mixture was stirred under heat for 30 minutes, and allowed to cool to room temperature. A mixture of 40 ml of conc. hydrochloric acid and 400 ml of ethanol was added, and the mixture was concentrated under reduced pressure. Ether was added, and the precipitated crystals were collected by filtration. Recrystallization of the crystals from ethanol-ether gave 55.5 g (yield 47.7%) of 1-(2,3,4-trimethoxybenzyl)-4-[bis(4-fluorophenyl)methyl]piperazine dihydrochloride as colorless crystals.

reactant | 2,3,4-Trimethoxybenzaldehyde | 215 millimoles, 42.1 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | bis(4-fluorophenyl)methylpiperazine | 215 millimoles, 61.9 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCNCC1 | C17H18F2N2
reactant | formic acid | 265 millimoles, 10 ml | C(=O)O | CH2O2
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1-(2,3,4-trimethoxybenzyl)-4-[bis(4-fluorophenyl)methyl]piperazine dihydrochloride | 55.5 g, yield 47.7% | Cl.Cl.COC1=C(CN2CCN(CC2)C(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=CC(=C1OC)OC | InChI=1S/C27H30F2N2O3.2ClH/c1-32-24-13-8-21(26(33-2)27(24)34-3)18-30-14-16-31(17-15-30)25(19-4-9-22(28)10-5-19)20-6-11-23(29)12-7-20;;/h4-13,25H,14-18H2,1-3H3;2*1H
